US07923561B2
(R)-Indan-1-yl-[5-(5-methyl-[1,2,4]oxadiazol-3-yl)-quinolin-2-yl]-amine
To a stirred solution of acetic acid (127 mg, 2.12 mmol) in acetonitrile (8.5 ml) was added at room temperature 1-hydroxy-benzotriazole (403 mg, 2.98 mmol) and N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimid-hydrochloride (465 mg, 2.43 mmol). The mixture was allowed to stir for 3 h at room temperature and N-hydroxy-2-((R)-indan-1-ylamino)-quinoline-5-carboxamidine (450 mg, 1.41 mmol) was added together with acetonitrile (7.5 ml). The mixture was allowed to stir for 2 h at room temperature, evaporated to dryness and diluted with acetic acid (14 ml). The reaction mixture was allowed to stir for 2 h at 100° C., evaporated, poured into saturated NaHCO3 solution (50 ml) and extracted with ethyl acetate (3×80 ml). The combined organic layers were washed with brine (2×50 ml), dried (MgSO4) and evaporated. The crude product was purified by flash chromatography (ethyl acetate/heptane) on silica gel and crystallization (ethyl acetate/heptane) to yield the title compound as light yellow solid (130 mg, 18%).

reactant | acetic acid | 2.12 mmol, 127 mg | C(C)(=O)O | C2H4O2
reactant | 1-hydroxy-benzotriazole | 2.98 mmol, 403 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimid-hydrochloride | 2.43 mmol, 465 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-hydroxy-2-((R)-indan-1-ylamino)-quinoline-5-carboxamidine | 1.41 mmol, 450 mg | ONC(=N)C=1C=2C=CC(=NC2C=CC1)N[C@@H]1CCC2=CC=CC=C12 | C19H18N4O
solvent | acetonitrile | 8.5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 7.5 ml | C(C)#N | C2H3N
product | (R)-Indan-1-yl-[5-(5-methyl-[1,2,4]oxadiazol-3-yl)-quinolin-2-yl]-amine | 130 mg, 18% | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=CC(=C2C=C1)C1=NOC(=N1)C | C21H18N4O
